* Z:\mnt\spice-netlists\LTC3646_DC1820A-A_DC1731A-A.asc
XU1 0 N006 N008 N009 OUT N003 N001 IN N005 N004 N001 0 IN N002 0 LTC3646
V1 IN 0 24
C1 N001 0 4.7µ
L1 N005 OUT 4.7µ
C2 OUT 0 10µ
Rload OUT 0 5
C3 N004 N005 .1µ
R1 OUT N006 619K
R2 N006 0 84.5K
R3 N001 N003 100K
C4 IN 0 10µ x2
R4 N009 0 60.4K
R5 N008 N007 200K
C5 N007 0 100p
R6 IN N002 2
C7 N002 0 2.2µ
C8 OUT N006 5.6p
C9 OUT 0 4.7µ
.tran 500u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LTC3646 - 40V, 1A Synchronous Step-Down Converter\nHigh Efficiency Low Quiescent Current Step-Down Converter\nInput: 7V to 40V     Output: 5V @ 1A, Fsw = 2.25MHz
.lib LTC3646.sub
.backanno
.end
